Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])/[C:10]([H:11])=[C:13]/[C:14]([H:15])([H:16])[H:17],1.76180107974
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.05117898502
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],4.8589855581300005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],1.59718649729
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.2181426373999999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.97844719306
[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.222621221630001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.93114014306
[C:1]#[C:2][C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4][O:5][H:6],3.0489226730900003
[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.53647037061
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.70510244883
[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-7.18864616921
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4][H:5])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:6],5.15183399428
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.09025225695
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.49655198113
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-5.19892686212
[O:1]=[C:2]([H:3])[C@@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.138342058939
[O:1]=[C:2]=[C:3][O:4][H:5]>>[H:5].[O:1][C:2]#[C:3][O:4],4.11018004645
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][H:4],2.01788590704
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1],5.7753141594700015
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],-5.41542077524
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:4][H:5],3.37895776008
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.91694727251
[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.9674932777
[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13],0.481766574389
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],1.78962085287
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.34242321548
